US05298652
To a suspension of 1.99 g (4.75 mmol) of 4-(octadecyloxy)-alpha-oxobenzeneacetic acid in 100 ml of methylene chloride and 3 drops of DMF stirred and cooled in an ice bath was added 2.1 ml (23.8 mmol) of oxalyl chloride. After 5 minutes the ice bath was removed and stirring was continued at room temperature for 1 hour. The reaction mixture was concentrated at reduced pressure and the resultant acid chloride was dissolved in 75 ml of anhydrous methylene chloride and added dropwise to an ice cooled solution of 1.25 ml (7.1 mmol) of diethyl iminodiacetate and 1.3 ml (9.5 mmol) of triethylamine in 25 ml of methylene chloride. The reaction mixture was stirred at room temperature for 17 hours and washed with NaHCO3 solution, dried and concentrated at reduced pressure. The resultant solid was recrystallized from methanol to give 2.4 g (86% yield, mp 63°-64°) of N-(2-ethoxy-2-oxoethyl)-N-[2-[4-(octadecyloxy)phenyl] -1,2-dioxoethyl]glycine ethyl ester.

reactant | 4-(octadecyloxy)-alpha-oxobenzeneacetic acid | 4.75 mmol, 1.99 g | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C=C1)C(C(=O)O)=O | C26H42O4
reactant | oxalyl chloride | 23.8 mmol, 2.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl iminodiacetate | 7.1 mmol, 1.25 ml | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | triethylamine | 9.5 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(2-ethoxy-2-oxoethyl)-N-[2-[4-(octadecyloxy)phenyl] -1,2-dioxoethyl]glycine ethyl ester | 2.4 g, 86% yield | C(C)OC(CN(C(C(=O)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCC)=O)CC(=O)OCC)=O | C34H55NO7
